Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
___ - PEG insertion

 
History of Present Illness:
Mr. ___ is an ___ year old gentleman with PMH notable for HTN, 
ESRD on HD MWF (last ___, and gout who presents from primary 
care clinic for further evaluation of dysphagia to both liquids 
and solids.  
 The patient was in his usual state of health up until this past 
___, when he was still able to eat a full meal without 
issues. The next day, he developed quickly progressing dysphagia 
that begins upon initiation of swallowing and resulting in 
severe coughing fits and regurgitation. He states that his 
dysphagia is equal to both solids and liquids, with water often 
coming out of his nose when he attempts to drink. He denies the 
sensation of He reports associated sore throat and states that 
his voice is now significantly raspier. Since the onset of these 
symptoms, he has experienced a 15 lb. weight loss.  
 Although the patient reports associated sore throat, he denies 
other infection symptoms including fevers, chills, or cough 
(aside from when he attempts to swallow). He further denies any 
associated neurological symptoms including slurred speech, 
facial droop, facial numbness, confusion, LOC, visual changes, 
or abrupt motor weakness or numbness. He does state that he's 
had some lower extremity weakness over the past few months that 
he attributes to his chronic lower back pain and he uses a cane 
to assist with ambulation.  
 In the ED, initial vitals were T98.3 HR 72, BP 165/61, RR 20, 
100% on RA.  
 - Exam notable for:  
 "OP clear with MMM, melanosis over anterior tongue. No 
tonsillar enlargement. +R mobile cervical lymph node. RRR, s1, 
s2, MR murmur at apex, audible AVF over superior precordium. LUE 
AVF, palpable thrill. Lungs CTABL. Abd soft, NTND. WWP, no ___ 
 
 - Labs notable for:  
 Na 143, K 3.5, bicarb 24, Cr 5.7, Ca 8.2, Mg 1.9, P 2.9; WBC 
8.1, Hg 9.8, plt 138.  
 
 - Imaging was notable for:  
 CT Chest w/ contrast ___  
 1. Ill-defined nodular and ground-glass opacities in the right 
lower lobe likely represent aspiration.  
 2. Esophagus is patulous. No evidence of structural lesion or 
mass effect in the esophagus.  
 
 - Patient was given: 1L NS.  
 Upon arrival to the floor, patient reports that he still is 
experiencing difficulty swallowing, but denies any other major 
symptoms. Specifically, he denies fevers, chills, worsening 
throat pain, vision changes, word-finding difficulties, or any 
weakness numbness. Family is present at bedside.  

 
Past Medical History:
ESRD on HD MWF  
HTN  
Gout  
Erectile dysfunction  
 
Social History:
___
Family History:
No know fhx. No h/o CAD, CVA, CA. No history of neuromuscular 
disorders. 
 
Physical Exam:
On Admission:
Vital Signs: T98.2 BP 189/86 HR 70 RR18 97 RA.  
 General: pleasant older AA gentleman resting in bed in NAD.  
 HEENT: Sclerae anicteric, MMM, EOMI, PERRL. Unable to fully 
visualize uvula and tonsils given Mallampati IV, but no obvious 
masses, tonsilar swelling, or deviation of the uvula.  
 Neck: Supple. JVP not elevated. Mobile right tonsil. No 
thyromegally or nodules.  
 CV: Regular rate and rhythm. Normal S1+S2, MR murmur at apex, 
audible AVF, no rubs, gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: LUE AVF with patent thrill. Warm, well perfused, 2+ 
pulses, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact (except for poor swallowing function), 
___ strength upper/lower extremities, grossly normal sensation, 
2+ reflexes bilaterally, gait deferred.  

On Discharge: 
VITALS:  98.8   150/66  75   18  96 Ra 
GENERAL - Pleasant, thin, appears chronically ill. NAD.
HEENT - NC/AT. EOMI. MMM. Ptosis bilaterally (chronic for pt).
NECK - Supple. +mildly tender cervical LAD.
CARDIAC - RRR. III/VI holosystolic flow murmur
LUNGS - CTAB. No w/r/r
ABDOMEN - Soft, thin. PEG in place, mild discomfort with 
palpation.
EXTREMITIES - WWP. No c/c/e. Fistula in place on Left arm with 
palpable bruit.
SKIN - Warm and dry
NEUROLOGIC - CNII-XII grossly intact
MSK - Pain on palpation on coccyx, no ulcers seen. Negative SLR 
or cross leg test.

 
Pertinent Results:
On Admission:
___ 12:14PM BLOOD WBC-8.1 RBC-3.14* Hgb-9.8* Hct-31.2* 
MCV-99* MCH-31.2 MCHC-31.4* RDW-15.4 RDWSD-55.5* Plt ___
___ 12:14PM BLOOD Glucose-74 UreaN-16 Creat-5.7*# Na-143 
K-3.5 Cl-99 HCO3-24 AnGap-24*
___ 12:14PM BLOOD Calcium-8.2* Phos-2.9 Mg-1.9

___ CT Neck:
IMPRESSION: 
1. Esophagus is patulous with no evidence of esophageal mass or 
structural 
lesion.  Please note that dysphagia is better assessed by barium 
swallow 
study. 
2. 2 mm of anterolisthesis of C7 over T1, which in the absence 
of prevertebral soft thickening or a history of trauma, is 
likely degenerative in nature. 
3. Severe degenerative changes of the cervical spine with 
diffuse idiopathic skeletal hyperostosis. 

In comparison with the video swallow exam performed on ___, review of the sagittal reconstruction images demonstrates 
heterogenous 
prevertebral soft tissue thickening measuring 1.2 cm wide 
(___)  at the 
level of C4-C5 which correlates to the region of barium holdup 
on the swallow 
study.  Endoscopy is recommended for further characterization. 

___ CT Chest:
IMPRESSION:  
1.  Ill-defined centrilobular nodular and ground-glass opacities 
in the right lower lobe, most compatible with aspiration. 
2.  Diffusely patulous esophagus without structural lesion or 
mass effect.  Please note that a barium swallow would provide 
improved assessment for dysphagia. 
3.  Hepatic and left renal hypodense lesions, likely cysts.  
Hypodense splenic lesion, incompletely assessed, possibly a cyst 
or hemangioma. 
4.  Small volume ascites.   
5.  Adrenal hyperplasia. 

___ Video Swallow Study:
IMPRESSION: 
1. Severe, nearly obstructing, proximal cervical esophageal 
narrowing 
secondary to roughly 2 cm of soft tissue swelling that is 
concerning for an esophageal neoplasm. 
2. Multilevel anterior cervical spine osteophytes impress upon 
the esophagus 
3. Frank aspiration. 

MRI Spine
IMPRESSION: 
1. Multilevel degenerative changes in the cervical spine as 
described above. 
2. Moderate to severe narrowing of the spinal canal and 
flattening of the 
spinal cord at C7-T1 without cord signal abnormality as a result 
of 
degenerative changes.  There is also moderate to severe 
narrowing of the right neural foramina at this level. 
3. Prominent anterior bridging osteophytes in the cervical spine 
exerting mild mass effect on the adjacent aerodigestive tract 
are suggestive of DISH.  There is probably mild reactive edema 
in the retropharyngeal soft tissues anterior to the osteophytes. 

4. Patulous and fluid-filled esophagus. 
  
Carotid U/S:
IMPRESSION:  
Less than 40% stenosis of the bilateral internal carotid 
arteries. 

EMG:
Clinical Interpretation: Complex abnormal study. There is 
electrophysiologic 
evidence for a chronic neurogenic process involving the facial 
muscles, tongue 
and the left upper and lower extremities. At this time the data 
do not meet 
criteria for a disorder of the anterior horn cells as in 
amyotrophic lateral 
sclerosis. There is no evidence for a post-synaptic disorder of 
the 
neuromuscular junction, as in myasthenia ___. Myotonic 
discharges were 
noted in one muscle; in conjunction with the history of long 
standing ptosis, 
this brings up the possibility of myotonic dystrophy. 

CT Abdomen/Pelvis:
IMPRESSION:  
1.  Optimal evaluation of organ pathology and vasculature is 
limited without 
the benefit of intravenous contrast. 
2. 15 x 12 mm hyperdensity within the lower pole of the left 
kidney, 
incompletely characterized, likely a hyperdense cyst. 
3. Multiple hepatic hypodensities throughout the liver, 
incompletely 
characterized on this unenhanced examination, but likely simple 
cysts given 
the fluid CT ___. 
4. Two 3 mm hyperdensities within the dependent portion of the 
urinary bladder 
may represent wall calcification or calculi.  No associated mass 
lesion is 
identified. 
5. Mild atelectasis versus scarring within the lingula and left 
lower lobe. 
6. Hepatic steatosis. Trace perisplenic ascites. 
7. Uniform thickening of the bilateral adrenal glands without 
focal 
nodularity. 
8. Extensive atherosclerotic disease. 

Interval Labs:
___ 07:03AM BLOOD CRP-49.3*
___ 07:03AM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Negative
___ 08:05AM BLOOD Free T4-1.1
___ 06:18AM BLOOD TSH-5.8*
___ 08:48AM BLOOD Cortsol-13.3
___ 07:37AM BLOOD VitB12-1358*
___ 07:35PM BLOOD ALT-11 AST-26 AlkPhos-85 TotBili-0.7
___ 11:55PM BLOOD CK(CPK)-66

___ 23:55    Acetylcholine Receptor Modulating Antibody 
(see report) - negative
___ 23:55    Acetylcholine Receptor Binding Antibody (see 
report) - negative 
___ 23:55    Aldolase (see report - negative
ACE: 35 (WNL)

On Discharge:
___ 06:50AM BLOOD WBC-5.5 RBC-2.43* Hgb-7.6* Hct-23.3* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-13.6 RDWSD-48.1* Plt ___
___ 06:50AM BLOOD Glucose-91 UreaN-35* Creat-6.5*# Na-135 
K-4.3 Cl-93* HCO3-31 AnGap-15
___ 06:50AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0 Iron-35*
___ 06:50AM BLOOD calTIBC-120* Hapto-236* Ferritn-932* 
TRF-92*

 
Brief Hospital Course:
___ year old gentleman with PMH notable for HTN, ESRD on HD MWF 
(last ___, and gout who presents from primary care clinic for 
further evaluation of dysphagia to both liquids and solids, work 
up was extensive, however, unfortunately no final diagnoses were 
made. 

# Dysphagia: Patient presented with acute onset dysphagia that 
started one week prior to admission when he realized he was 
coughing after any solid or liquid intake. Extensive work up, 
with a few studies left to work up as an outpatient. Video 
swallow with combined picture of neurological and mechanical 
dysfunction. Initially it was thought to be related to a 1.2cm 
mass/thickening in paravertebral area, however upon further 
review, nor this thickening nor C4-C5 osteophytes were thought 
to explain his dysphagia. There were no masses seen on either 
EGD or laryngoscope. Patient received PPN for nutrition, 
eventually Dobhoff, and finally family and patient agreed to 
PEG, which was placed by ___. MRI brain with out any evidence of 
acute stroke that would explain patient's neurological 
dysfunction seen on video swallow. MRI C spine showing likely 
osteophyte compression with mass effect involving the esophagus, 
however spine surgery did not believe this would explain his 
dysphagia. Finally, there was a left subclavian steal noted on 
carotid u/s, Vascular surgery was consulted and they did not 
believe his dysphagia could be explained by this. After GI, ENT, 
spine surgery, and vascular surgery evaluated patient, Neurology 
was consulted. Patient had a plethora of studies to rule out 
syphilis, thyroid dysfunction, Lyme, which were all negative. 
Acetylcholine binding and modulation ab were negative, CK and 
aldolase were also normal. An EMG was done which was did show 
some myotonic discharges, which in setting of dysphagia and long 
term ptosis, may be explained by Myotonic dystrophy, although 
less likely. Patient with CT abdomen/pelvis without obvious 
evidence for malignancy. Overall, after extensive work up, there 
were no obvious diagnoses for patient's dysphagia. On 
EGD/laryngoscope, there was significant edema of the UES 
(cricopharyngeal muscle), which could be caused by 
cricopharyngeal spasm, a diagnosis of exclusion. Therefore, plan 
is for patient to follow up with ENT once he has received more 
nutrition and is stronger. Additionally, given the few abnormal 
myotonic discharges, final myotonic dystrophy studies will be 
pursued by Neurology as an outpatient. Patient should continue 
to be re-evaluated for improvement of his symptoms with Speech & 
Swallow. 

# Gastritis: Patient had EGD as part of dysphagia work up which 
noted gastritis. Started on IV PPI BID, which should be 
continued for at least 10 weeks. Changed to lansoprazole 30mg 
BID, which can be given via PEG. H.pylori stool was negative. 

# Carotid bruit/Subclavian steal: Noted on exam. Carotid 
dopplers < 40% stenosis, however evidence left subclavian steal. 
Medical management w/ BP control, ASA. Vascular surgery 
evaluated patient and did not believe the steal was contributing 
to dysphagia, or that it was causing significant symptoms that 
would need intervention. 

# HTN: As high as SBPs in 160s-170s, asymptomatic. Usually 
controlled with volume removal with HD. Initially allowed 
hypertension given patient was ESRD. However, once subclavian 
steal seen on carotid u/s, started Atorvastatin and Labetolol. 

CHRONIC ISSUES:  
# ESRD on HD MWF: This was continued during hospitalization. 
Sevelamer held due to lack of enteral access, restarted once PEG 
in place. 

# Back Pain: Patient with chronic back pain, likely exacerbated 
by poor mobility during hospitalization. Treated with topical 
lidocaine patch and IV tylenol PRN. On discharge, patient was 
started on standing 1g Tylenol Q8H. Should have continued 
physical therapy once at rehabilitation facility, which will 
certainly improve his back pain.

# Gout: Allopurinol was held since there was no enteral access, 
started once PEG tube in place. 

# Depression: Patient and family requested medication for 
depression as he has been struggling with this as an outpatient. 
After discussion with outpatient providers, patient was started 
on Mirtazapine 7.5mg daily. Tolerated this well. 

TRANSITIONAL ISSUES
====================
[] Started Atorvastatin 40mg daily and Labetolol for subclavian 
steal noted on carotid ultrasound, medical management. Continued 
home baby aspirin. 
[] Should continue BID PPI (Lansoprazole 30mg BID).
[] Should f/u with ENT for dysphagia and possible consideration 
of botox vs myotomy for cricopharyngeal spasm.
[] Should continue to be evaluated by Speech & Swallow at least 
2x/week for improvement of dysphagia and swallowing therapy. 
Could repeat video swallow as appropriate.
[] Should f/u with Neurology for complete work up for myotonic 
dystrophy.
[] Should continue nutrition via PEG (as goal rate).
[] Monitor nutrition and make sure patient is gaining weight 
appropriately. 
[] Needs ___ follow up for routine PEG tube exchange.
[] Should always be on aspiration precautions, as patient very 
high risk. 
[] Should continue to follow up Depression and uptitrate or 
change medications as necessary. Started Mirtazapine for 
Depression. 
[] Should continue physical therapy for lower back pain and 
overall improvement in mobility after a long hospitalization.
[] **LABS: Please repeat CBC on ___ to follow Hgb. 
[] **LABS: Please continue Chemistries with dialysis on ___.

# CODE: FULL, confirmed w/ patient
# CONTACT: ___ (son/HCP) ___, ___ 
(daughter in law) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Ranitidine 150 mg PO DAILY 
3. Cinacalcet 30 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 1300 mg PO BID 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Labetalol 100 mg PO BID  
4.  Lansoprazole Oral Disintegrating Tab 30 mg Other BID  
5.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine-menthol [LidoPatch] 4 %-1 % apply to back once per 
day daily Disp #*30 Patch Refills:*0 
6.  Mirtazapine 7.5 mg PO QHS  
7.  Multivitamins 1 TAB PO DAILY  
8.  Thiamine 100 mg PO DAILY  
9.  Acetaminophen 1300 mg PO BID  
10.  Allopurinol ___ mg PO DAILY  
11.  Aspirin 81 mg PO DAILY  
12.  Cinacalcet 30 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Dysphagia
Cricopharyngeal hypertonicity/hypertrophy
C4-C5 diffuse idiopathic skeletal hyperostosis (DISH)
Left subclavian steal syndrome

SECONDARY DIAGNOSIS
=====================
End stage renal disease on dialysis ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___. You came to our 
hospital after having trouble swallowing liquids and solids. 
Here we had an extensive work up to try to find the cause of 
your issues swallowing. Meanwhile, we provided you with 
nutrition via your veins, and ultimately via a newly placed tube 
in your stomach.

After many specialists evaluated you, we were unable to find an 
obvious reason for your trouble swallowing. The 
gastroenterologists did not find any malignancy in your throat. 
The Ear, Nose, and Throat doctors, were also unable to find any 
malignancy or other obvious cause. Sometimes your swallowing 
tube becomes tight and does not work with out a known cause - 
this is called "idiopathic cricopharyngeal spasms." The 
Neurologists were unable to find any obvious muscular disorders 
that caused your difficulty swallowing as well. Imaging of your 
brain and spine did not show strokes. The Orthopedic surgeons 
did not believe the bone growths on your spine would explain 
your symptoms either. 

You will have follow up with the Ear, nose and throat doctors, 
as well as the Neurologists and they will order a few other 
studies as an outpatient to finalize the work up. The Ear, Nose, 
and Throat doctors ___ discuss your progress with you and 
determine whether there are any procedures that may alleviate 
your symptoms - however this would not be a possibility until 
you have at least one month of adequate nutrition. 

We wish you the very best and hope that your symptoms improve 
with time. 

Take care, Mr. ___. Thank you for being so patient with us. 

Best,

Your ___ Team
 
Followup Instructions:
___